US05846995
N,N-dimethyl-8-hydroxy-1,2,3,4-tetrahydro-2-dibenzofuranamine
A solution of 0.332 gm (1.44 mMol) N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine in 5 mL concentrated hydrochloric acid and 5 mL water was cooled to -10° C. To this solution was added a solution of 0.109 gm (1.58 mMol) sodium nitrite in 10 mL water dropwise. The resulting solution was stirred for 1 hour and was then added to 10 mL concentrated sulfuric acid. This mixture was stirred at reflux for 4 hours. The reaction mixture was poured over ice and the solution made basic by the addition of aqueous potassium carbonate. The solution was then extracted well with chloroform containing 10% isopropanol. The organic extracts were combined, dried over potassium carbonate and concentrated under reduced pressure. The residue was subjected to radial chromatography (silica gel, 2 mm). Fractions containing product were combined and concentrated under reduced pressure to provide 0.121 gm (36%) of the title compound as an off-white foam.

reactant | N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine | 1.44 mMol, 0.332 gm | CN(C1CC2=C(OC3=C2C=C(C=C3)N)CC1)C | C14H18N2O
reactant | sodium nitrite | 1.58 mMol, 0.109 gm | N(=O)[O-].[Na+]
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 5 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | N,N-dimethyl-8-hydroxy-1,2,3,4-tetrahydro-2-dibenzofuranamine | 0.121 gm, 36% | CN(C1CC2=C(OC3=C2C=C(C=C3)O)CC1)C | C14H17NO2
